Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pine Tar
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
Intubation
EGD

 
History of Present Illness:
___ w/ PMH of AS with ___ of 0.9 cm2, CHF and ILD, who is 
transferred from ___, in the setting of CHF exacerbation, for 
TAVR consideration. 

He reports that he has not been at baseline since ___. Since 
that time, he has had four admissions for heart failure. He was 
admitted to ___ in early ___ with a COPD 
exacerbation/PNA and was treated with steroids/antibiotics. His 
prednisone from that admission has been slowly tapered down to a 
dose of 10mg daily as of ___. In ___, he developed 
chest pressure, without EKG changes or elevated troponin. He was 
sent for a nuclear stress test which demonstrated new inferior 
ischemia and some mild transient LV dilatation. He was also 
found to have aortic stenosis with an ___ of 0.9cm2. He was 
referred for cardiac cath ___, which revealed moderate to 
severe aortic stenosis with mean aortic gradient 20 mm Hg and 
valve area 0.86 cm2, and 1 vessel CAD with 50% RCA. 

His SOB had been slowly worsening over the last week in the 
setting of prenisone taper, but then acutely worsened the 
morning of ___. He monitors his oxygen saturation at home and 
reports that his O2 sat dropped acutely from the mid ___ to the 
___ on his home 3L of O2. In the ___, an ABG showed 
___ on 100% FiO2 BiPAP. He also had a trop of 0.4, 
without EKG changes, felt due to demand ischemia in the setting 
of CHF exacerbation. He received 4mg of bumex and solumedrol 
125mg iv X 1. He was seen there by his primary pulmonologist, 
Dr. ___ felt that his presentation was likely due to a 
combination of ILD exacerbation and pulmonary edema. She 
recommended solumedrol 125mg IV tid, supplemental oxygen 
titrated to O2 sat 88-92%, and evaluation by ILD expert Dr. 
___. Cardiology also saw him and recommended continued 
diuresis and transfer to ___ for re-consideration of aortic 
valve repair. 

Upon arrival to the floor, he is on a non-rebreather. He denies 
any pain. He is still short of breath, but reports that this 
continues to improve since admission to ___.  

REVIEW OF SYSTEMS: +Dry cough since ___. +Chest pressure that 
comes on about once/day, lasts a few minutes, seems to improve 
with rest, since ___. 
He denies any prior history of stroke, TIA, deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, hemoptysis, black stools or red stools. 
He denies recent fevers, chills or rigors. All of the other 
review of systems were negative.

Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, or palpitations. 

 
Past Medical History:
* Hemochromatosis - diagnosed ___ ago, treated with QOmonth 
phlebotomy for ___ years.  
* Cirrhosis due to hemochromatosis and ?EtOH cirrhosis  
* h/o EtOH abuse, no h/o withdrawals, continues to drink daily  
* Hypertension  
* Coronary artery disease (per OMR but pt denies; also normal 
cath in ___ essentially unremarkable echo ___ (trace MR, mild 
AS)  
* Pulmonary fibrosis - diagnosed ___ ago, on chronic steroids  
recently tapered from 10mg daily to 2.5mg daily. Currently uses 
4L NC 02 at night only.  
* Asthma??  
* Hyperlipidemia  
* Psoriatic arthritis  
* s/p right rotator cough injury  
* Anemia of unclear etiology, receives transfusions. Per report 
pt had negative EGD/colonoscopy in ___, last transfusion 4 
weeks ago  

 
Social History:
___
Family History:
sister died of lung ca at age ___, brother with DM, sister with  
hemachromatosis, breast Ca  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T=98 BP=121/81 HR=86 RR=25 O2 sat=96%  
General: Pleasant obese man, slightly agitated saying "I can't 
get comfortable" but thinks it's from lying around, not from 
SOB.  
HEENT: MMM. 
Neck: Supple. No JVD, though thick neck complicates assessment.
CV: RRR. II/VI early systolic murmur at LUSB.
Lungs: Crackles about mid-way up bilaterally, R>L.  
Abdomen: Soft, non-tender, +BS. 
GU: deferred. 
Ext: Moderate pitting edema to knees bilaterally, R>L. No 
palpable lower extremity pulses, but DP/TP pulses dopplerable 
bilaterally. 
Neuro: Moves all extremities equally.

DISCHARGE PHYSICAL EXAM
VS: 97.7, 90 (89-111), 91/64 (90-112/52-74), 18, 92% 2 L
I/O: 24 hour: ___ 8 hour 425
FSBG: 193-275
Tele: NSR, frequent PVC's. 
General: AAOx3, NAD, sitting up in bed
HEENT: JVP not elevated
CV: RRR, ___ holosystolic murmur
Resp: Crackles throughout and decreased breath sounds at bases
Abd: Soft, NTND, normoactive bowel sounds
Extr: TEDS, trace edema bilaterally
Neuro: CN II-XII grossly intact
 
Pertinent Results:
ADMISSION LABS:

___ 12:19AM BLOOD WBC-12.4* RBC-3.50* Hgb-11.3* Hct-33.7* 
MCV-96 MCH-32.4* MCHC-33.6 RDW-13.6 Plt ___
___ 12:19AM BLOOD Neuts-91.8* Lymphs-3.8* Monos-3.9 Eos-0.5 
Baso-0.1
___ 12:19AM BLOOD Plt ___
___ 12:19AM BLOOD ___ PTT-26.3 ___
___ 12:19AM BLOOD Glucose-226* UreaN-28* Creat-1.0 Na-135 
K-4.2 Cl-95* HCO3-30 AnGap-14
___ 05:24PM BLOOD Glucose-548* UreaN-32* Creat-1.1 Na-127* 
K-6.4* Cl-88* HCO3-27 AnGap-18
___ 12:19AM BLOOD CK(CPK)-14*
___ 12:19AM BLOOD CK-MB-1 cTropnT-0.03* proBNP-8106*
___ 12:19AM BLOOD Calcium-8.5 Phos-2.1* Mg-1.9
___ 05:24PM BLOOD Calcium-8.3* Phos-3.7# Mg-1.8

PERTINENT LABS:
___ 04:29PM BLOOD %HbA1c-8.2* eAG-189*
___ 02:40AM BLOOD ___
___ 02:40AM BLOOD RheuFac-16*
___ 04:29AM BLOOD Lactate-1.3
___ 04:36AM BLOOD Lactate-1.1
___ 03:47PM BLOOD Lactate-1.3

DISCHARGE LABS:

___ 05:13AM BLOOD WBC-4.1 RBC-2.40* Hgb-7.4* Hct-23.8* 
MCV-99* MCH-30.7 MCHC-30.9* RDW-18.3* Plt Ct-50*
___ 03:15AM BLOOD ___ PTT-30.6 ___
___ 05:13AM BLOOD Glucose-168* UreaN-74* Creat-4.6* Na-139 
K-3.8 Cl-109* HCO3-20* AnGap-14
___ 03:15AM BLOOD ALT-35 AST-19 AlkPhos-79 TotBili-0.6
___ 05:13AM BLOOD Calcium-7.7* Phos-4.9* Mg-1.8
___ 10:55AM BLOOD Type-ART ___-194* pCO2-32* pH-7.38 
calTCO2-20* Base XS--4 Intubat-NOT INTUBA

IMAGING:
___ ECHO
Conclusions  
The left atrium is elongated. The right atrium is moderately 
dilated. The estimated right atrial pressure is at least 15 
mmHg. There is mild symmetric left ventricular hypertrophy. The 
left ventricular cavity is moderately dilated. There is moderate 
global left ventricular hypokinesis (LVEF = ___ with 
abnormal septal motion c/w conduction abnormalities. Right 
ventricular chamber size is normal with focal hypokinesis of the 
apical free wall. The ascending aorta is mildly dilated. The 
aortic arch is mildly dilated. The number of aortic valve 
leaflets cannot be determined. The aortic valve leaflets are 
severely thickened/deformed. There is moderate aortic valve 
stenosis (valve area 1.0 cm2). Trace aortic regurgitation is 
seen. There is no mitral valve prolapse. An eccentric jet of 
mild (1+) mitral regurgitation is seen. [Due to acoustic 
shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] The tricuspid valve leaflets are 
mildly thickened. There is moderate pulmonary artery systolic 
hypertension. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: Moderately dilated left ventricular cavity with 
moderate global hypokinesis. Mild apical right ventricular 
hypokinesis. Moderate to severe aortic stenosis with trace 
regurgitation. Mildly dilated thoracic aorta. At least mild 
mitral regurgitation.

Compared with the prior study (images reviewed) of ___, 
the biventricular function now appears depressed, the degree of 
aortic stenosis is moderate, and the thoracic aorta is mildly 
dilated.  

___ ECHO
Conclusions  
Mild spontaneous echo contrast is seen in the body of the left 
atrium. No mass/thrombus is seen in the left atrium or left 
atrial appendage. No spontaneous echo contrast is seen in the 
left atrial appendage. No atrial septal defect is seen by 2D or 
color Doppler. The diameters of aorta at the sinus, ascending 
and arch levels are normal. There are complex (>4mm) atheroma in 
the aortic arch and descending thoracic aorta. There are three 
aortic valve leaflets that are moderately thickened. There are 
filamentous strands on the aortic leaflets consistent with 
Lambl's excresences (normal variant). Significant aortic 
stenosis is present (not quantified though moderate to severe by 
visual estimate). No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen.

IMPRESSION: Mild left atrial spontaneous echo contrast. No 
intracardiac thrombus. Significant aortic stenosis. Complex 
atheroma in aortic arch and descending aorta. Mild mitral 
regurgitation.

___ CXR
COMPARISON:  ___ radiograph. 
  
FINDINGS:  Interval increase in heart size with 
moderate-to-marked 
cardiomegaly.  Widening of right mediastinal contour could be 
due to vascular 
distention given findings of pulmonary vascular congestion and 
moderate-to-severe pulmonary edema, but underlying 
lymphadenopathy or mass is difficult to exclude without more 
recent radiographs for comparison.  
Partially loculated right pleural effusion is present, overall 
moderate in 
size with an intrafissural component.  There is also either 
loculated fluid or pleural thickening present in both apices 
laterally. 
  
Short-term followup radiographs after diuresis would be helpful 
to confirm 
resolution and to more fully evaluate the mediastinal and 
pleural findings 
described above.  If persistent despite improvement in pulmonary 
edema, CT 
would be suggested. 
  
___/ CXR
IMPRESSION:  AP chest compared to ___: 
  
Interval improvement since ___ is due to of a component 
of acute 
pulmonary edema.  What extent interstitial abnormality is due to 
chronic lung disease that developed between ___ and ___ 
is indeterminate because of the long imaging interval.  
Currently, the heart is moderately enlarged and mediastinal 
veins are dilated.  Pleural effusions are small, and there is no 
pneumothorax.  ET tube, upper enteric drainage tube, and right 
transjugular ___ catheter are in standard placements.  No 
pneumothorax.

___ RUQ US: Coarsened echogenicity and nodular contour of the 
liver in keeping with known history of cirrhosis.  Limited views 
of the liver do not demonstrate any focal hepatic lesions. 
Unchanged splenomegaly.

___ CXR 
FINDINGS:  As compared to the previous radiograph, there is 
currently no 
evidence of an aspirated tooth on the image.  Moderate 
cardiomegaly with signs of mild fluid overload persists.  The 
presence of a small left pleural effusion cannot be excluded.  
The nasogastric tube and the left PICC line are in unchanged 
position. 

___ CXR
FINDINGS:  As compared to the previous radiograph, there is no 
relevant 
change.  Low lung volumes with crowding of vascular structures 
and unchanged mild-to-moderate pulmonary edema.  Unchanged 
bilateral basal atelectasis at the lung bases, left more than 
right.  No new parenchymal opacity.  No larger pleural 
effusions.  Unchanged appearance of the left PICC line.

___ CXR
As compared to the previous radiograph, the PICC line is 
unchanged. The tip projects over the upper-to-mid SVC.  
Unchanged appearance of the lung parenchyma and of the cardiac 
silhouette.
 
Brief Hospital Course:
___ w/ PMH of AS with ___ of 0.9 cm2, CHF and ILD, who is 
transferred from ___, in the setting of CHF exacerbation.

ACTIVE ISSUES

# Hypoxemic respiratory failure: He continued to decompensate 
after transfer, requiring intubation ___. His respiratory 
failure was felt to be caused largely by pulmonary edema, with 
smaller contributions from his ILD and possible HCAP. He 
improved with cardioversion of atrial flutter, diuresis of ~6L, 
and HCAP treatment. He was extubated ___ and by ___ was 
satting in the mid-90s on ___ nasal cannula, consistent with 
his baseline O2 requirement. He continued to sat well on 
low-volume nasal cannula. FYI: Be cautious with supplemental O2. 
Tirate to 92-94%. Patient will become confused if satting too 
much above this level or if he is receiving too much oxygen.

# GI Bleeding: On ___, Pt was noted to have melanotic stools. 
Heparin gtt that had been started for post-cardioversion 
prophylaxis was stopped, and octreotide and pantoprazole drips 
were started. The patient's Hct remained stable. Hepatology was 
consulted and it was felt that the bleeding was likely to to 
known portal gastropathy rather than esophageal varices. On 
___, he had BRBPR and a Hct drop from 27 to 22. He was 
transfused 2U pRBCs and emergent EGD was performed. It showed a 
bleeding ___ tear at GE junction/lesser curvature, 
which was injected w/ 4 cc epinephrine. An adherent clot in 
fundus could not be dislodged. No esophageal varices. He was 
treated with a 7-day course of ceftriaxone as prophylaxis for 
SBP. Repeat EGD was not pursued. His PPI drip was transitioned 
to BID dosing on ___. His Hct remained stable after bleed 
and was stable on discharge.
 
# SHOCK: Multifactorial. Felt mainly due to cardiogenic cause, 
given known AS, EF 30%, pulmonary and lower extremity edema. 
Hypovolemia likely playing a role as well from GI blood loss and 
diuresis. BP in the ___ for most of admission. After GI bleed 
with BRBPR, pt was hypotensive to ___ on norepinephrine. His 
norepinephrine was not able to be weaned even after 
resuscitation w/ 3U pRBCs and ~4L fluids.  Stress-dose steroids 
(50mg solumedrol q6) were empirically started ___ for possible 
adrenal insufficiency, although he was only on 5mg prednisone 
daily prior to admission. His norepinephrine was weaned on ___. 
His stress-dose steroids were tapered and taper should be 
continued post-discharge.

# PAROXYSMAL ATRIAL FIBRILLATION: Noted to be in atrial flutter 
with 2:1 block on admission. It was thought that this arrhythmia 
could have been a major cause of his CHF exacerbation. TEE was 
performed, which showed no clot, so he was cardioverted. 50 J 
initially, went into Afib, then 200 J, went into sinus with 
frequent PACs.
He was started on amiodarone short-term because atrial kick 
critical while in decompensated heart failure. He had one other 
episode of Afib on ___ in the setting of his GI bleed. He was 
initially anticoagulated with heparin gtt after the 
cardioversion, but this was discontinued once melanotic stools 
were noted. His long term plan is for anticoagulation with 
aspirin only.

# ACUTE TOXIC METABOLIC ENCEPHALOPATHY: After intubation, the 
patient was altered for several days, withdrawing to painful 
stimuli but not following commands. Several etiologies were 
considered including slow clearance (due to liver and kidney 
disease) of the sedation given while on the vent, possible 
hepatic encephalopathy, and ICU delirium. He was initially 
treated with lactulose and then rifaximin for hepatic 
encephalopathy. His mental status slowly improved. He continues 
to have issues with confusion on waking and with too high a 
level of supplemental oxygen as above but he typically clears 
quickly.

___ DUE TO ATN: From a baseline Cr 1.0, his Cr peaked at 7.2. 
Renal was consulted and diagnosed ATN from hypotension/poor 
perfusion. His medications were renally-dosed. By discharge his 
Cr improved to 4.6 and was steadily down-trending.

# HCAP:  Resolved. Cultures from BAL with Moraxella, S. pneumo, 
and MSSA. Initially on vancomycin and cefepime (Day ___ = ___, 
switched to levofloquin and nafcillin after speciation. 
Completed 14 day course on ___.

# Steroid-induced hyperglycemia: Carries no diagnosis of 
diabetes. Hgb A1c 8.2% on admission in the setting of chronic 
steroid use. The patient's glycemic control strategy fluctuated 
with nutritional status during this admission. He was given 12U 
glargine plus sliding scale insulin coverage. He will be 
discharged on this regimen given he is continuing on steroid 
taper.

# GOALS OF CARE: Discussed extensively with patient and family 
while in hospital. After intubation he decided he would like to 
be DNR/DNI going forward. Palliative Care was consulted for 
coping and will follow as outpatient.

CHRONIC ISSUES

# AORTIC STENOSIS: Severe, ___ of 0.86 cm2 by cath. CT surgery 
evaluated him as not a surgical candidate. He is not a candidate 
for TAVR.

# Alcoholic cirrhosis: Followed by Dr. ___. EGD this admission 
shows no esophageal varices. His home spironolactone 50 bid and 
nadolol 20 qd were held this admission given hypotension. They 
were restarted on discharge.  

# Thrombocytopenia: Known to be chronically thrombocytopenic. 
Worked up by Hematology during ___ admission and felt to be due 
to underlying liver disease. Platelets fluctuated between 50-200 
during this admission.

TRANSITIONAL ISSUES
- Patient is now DNR/DNI
- Vital signs per routine
- Daily labs. Check CBC and Chem-7. Weekly LFTs and INR to 
calculate MELD.
- CPAP at night
- Titrate O2 to SpO2 92-94%. DO NOT GO ABOVE THIS AS ___. BECOMES 
SOMNOLENT.
- Fingersticks QACHS
- CPAP at night
- Titrate O2 to 92-94%. DO NOT GO ABOVE THIS.
- Steroid taper: Prednisone 60 mg ___, 30 mg ___, 
15 mg ___,  10 mg ongoing after that
- Continue insulin regimen while on steroid taper. Reassess need 
daily. 
- FYI: Patient frequently appeared confused and somnolent in 
hospital on waking. Likely due to insomnia/exhaustion. Confusion 
also noted when patient was receiving too high a level of 
supplemental oxygen.
- ___ CRT for systolic dys-synchrony
- Follow-up with Cardiology scheduled
- Follow-up with Liver Clinic scheduled
- Follow-up with Palliative Care scheduled
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Acetaminophen 325 mg PO BID 
3. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
4. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
arthritis pain 
5. Sucralfate 1 gm PO QID 
6. DiphenhydrAMINE 25 mg PO HS:PRN itch 
7. Guaifenesin-CODEINE Phosphate 5 mL PO Q6H 
8. Aspirin 81 mg PO EVERY OTHER DAY 
9. Bumetanide 2 mg PO DAILY 
10. melatonin 5 mg oral QHS 
11. Cyanocobalamin 300 mcg PO DAILY 
12. Omeprazole 20 mg PO BID 
13. Atorvastatin 20 mg PO DAILY 
14. Nadolol 20 mg PO DAILY 
15. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
16. FoLIC Acid 1 mg PO DAILY 
17. Spironolactone 50 mg PO BID 
18. PredniSONE 5 mg PO DAILY
 
Discharge Medications:
1. Acetaminophen 1000 mg PO BID:PRN pain or fever 
Do not exceed 2gm tylenol per day. 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Cyanocobalamin 300 mcg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Omeprazole 40 mg PO Q12H 
7. PredniSONE 60 mg PO DAILY Duration: 3 Days 
Started ___. 
8. PredniSONE 30 mg PO DAILY Duration: 3 Days 
Start after patient completes 60 mg. ___ 
9. PredniSONE 15 mg PO DAILY Duration: 3 Days 
Start after patient completes 30 mg. ___ 
10. PredniSONE 10 mg PO DAILY 
Start after patient completes 15 mg. Please maintain pt. on 10mg 
QD. 
11. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
12. Albuterol 0.083% Neb Soln ___ NEB IH Q6H wheeze/SOB 
13. Amiodarone 200 mg PO BID 
14. Benzonatate 100 mg PO TID 
15. Dextromethorphan Poly Complex ___ mg PO Q12H:PRN cough 
16. Guaifenesin 10 mL PO Q6H 
17. Glargine 10 Units Breakfast
Glargine 6 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
18. Ipratropium Bromide Neb ___ NEB IH Q6H wheeze/SOB 
19. Lactulose 30 mL PO TID 
Titrate to 3 BM/daily. 
20. Rifaximin 550 mg PO BID 
21. Docusate Sodium 100 mg PO BID 
22. Nadolol 20 mg PO DAILY 
23. Spironolactone 50 mg PO BID 
24. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN 
arthritis pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses
- Congestive heart failure
- Interstitial lung disease
- Respiratory failure
- Healthcare-associated pneumonia
- Acute tubular necrosis
- GI bleed due to ___ tear

Secondary diagnoses:
- Metabolic encephalopathy
- Aortic stenosis
- Alcoholic cirrhosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were a patient at 
___. You came to us with 
respiratory failure that was likely due to a combination of your 
lung disease, heart failure, and pneumonia. You were treated for 
this with intubation and antibiotics which resulted in 
improvement. Your time in the hospital was complicated by GI 
bleeding, renal failure, and confusion. All of these issues were 
either resolves or improving on discharge.

You are being discharged to rehab to improve your strength 
before you go home. We wish you and your family all the best,

CCU Team
___
 
Followup Instructions:
___